US06413983B1
Preparation of (2S)-2,3-Dihydro-1H-indole-2-carboxylic acid isopropyl ester
To the solution of (2S)-2,3-dihydroindole-2-carboxylic acid (163 mg, 1.0 mmol) in isopropyl alcohol (40 mL), was added thionyl chloride (0.1 mL) slowly. The reaction mixture was heated at reflux for 4 hr with stirring. After cooling, all volatiles were removed under reduced pressure. To the residue saturated aqueous solution of NaHCO3 (10 mL) was added, which was extracted with ethyl acetate (10 mL×3). The extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give the desired compound (182 mg, 89%).

reactant | (2S)-2,3-dihydroindole-2-carboxylic acid | 1.0 mmol, 163 mg | N1[C@@H](CC2=CC=CC=C12)C(=O)O | C9H9NO2
reactant | thionyl chloride | 0.1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | isopropyl alcohol | 40 mL | C(C)(C)O | C3H8O
product | (2S)-2,3-Dihydro-1H-indole-2-carboxylic acid isopropyl ester | 182 mg, 89% | C(C)(C)OC(=O)[C@H]1NC2=CC=CC=C2C1 | C12H15NO2
